### PR TITLE
[Merged by Bors] - feat: define Descriptive.Tree

### PR DESCRIPTION
**Pull request by sven-manthe**
Define trees in the sense of descriptive set theory. Deduce SetLike from a more general instance about complete sublattices of power set lattices.
Taken from https://github.com/sven-manthe/A-formalization-of-Borel-determinacy-in-Lean

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
+/-
+Copyright (c) 2024 Sven Manthe. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sven Manthe
+-/
+import Mathlib.Order.CompleteSublattice
+
+/-!
+# SetLike for CompleteSublattice (Set X)
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice/SetLike.lean:9]:
```suggestion
# `SetLike` instance for `CompleteSublattice (Set X)`

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
+/-
+Copyright (c) 2024 Sven Manthe. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sven Manthe
+-/
+import Mathlib.Order.CompleteSublattice
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice/SetLike.lean:6]: Is there a reason this is not in the `CompleteSublattice` file? Do you expect more material to join this file?

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+
+variable {X : Type*} {L : CompleteSublattice (Set X)}
+
+/-- membership is inherited from `Set X` -/
+@[simps] def setLikeCompleteSublattice : SetLike L X where
+  coe T := T
+  coe_injective' := Subtype.val_injective
+
+section
+
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice/SetLike.lean:25]: Can you also add a comment here why this is not a global instance?

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+attribute [local instance] setLikeCompleteSublattice
+
+variable {S T : L} {s : Set L} {I : Sort*} {f : I → L} {x : X}
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice/SetLike.lean:28]: I'm a bit surprised by the naming of variables: I'd expect `s : S` and not `S: s`.

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 5]
```diff
@@ -0,0 +1,54 @@
...
+
+@[ext] theorem ext (h : ∀ x, x ∈ S ↔ x ∈ T) : S = T := SetLike.coe_injective <| Set.ext h
+
+@[local simp] theorem mem_subtype : x ∈ L.subtype T ↔ x ∈ T := Iff.rfl
+
+@[simp] theorem mem_sInf : x ∈ sInf s ↔ ∀ T ∈ s, x ∈ T := by
+  rw [← mem_subtype]; simp [- coe_subtype]
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice/SetLike.lean:35]: I think mathlib style is to use `simp [-coe_subtype]`. You can double-check yourself using a quick search. If things are inconclusive, you can let it be. Same for the other occurrences below.

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 6]
```diff
@@ -0,0 +1,54 @@
...
+@[simp] theorem mem_iInf : x ∈ ⨅ (i : I), f i ↔ ∀ (i : I), x ∈ f i := by
+  rw [← mem_subtype]; simp [- coe_subtype]
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice/SetLike.lean:37]: Manually removing simp lemmas is always a code smell to me. Can you at least comment on why you do this?

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 7]
```diff
@@ -0,0 +1,31 @@
...
+Copyright (c) 2024 Sven Manthe. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sven Manthe
+-/
+import Mathlib.Order.CompleteLattice.SetLike
+
+/-!
+# Trees in the sense of descriptive set theory
+
+This file defines trees of depth ω in the sense of descriptive set theory.
```
Comment (grunweg) [inline Mathlib/SetTheory/Descriptive/Tree.lean:11]: I haven't seen trees in the sense of descriptive set theory. Of course, you don't have to explain all definitions in prose --- but if you can, it might help. Can you give a short summary what these are? If so, that seems useful to include.

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 8]
```diff
@@ -0,0 +1,31 @@
...
+
+## Main declarations
+
+* `Tree A`: A (possibly infinite) tree of depth at most ω with nodes in A
```
Comment (grunweg) [inline Mathlib/SetTheory/Descriptive/Tree.lean:15]: English grammar does (usually) lower-cases the first letter after a colon. (This is different from German.) In this instance, capitalising it is particularly confusing.
```suggestion
* `Tree A`: a (possibly infinite) tree of depth at most `ω` with nodes in `A`

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 9]
```diff
@@ -0,0 +1,54 @@
...
+namespace CompleteSublattice
+
+variable {X : Type*} {L : CompleteSublattice (Set X)}
+
+/-- membership is inherited from `Set X` -/
+@[simps] def setLikeCompleteSublattice : SetLike L X where
+  coe T := T
+  coe_injective' := Subtype.val_injective
+
+section
```
Comment (grunweg) [inline Mathlib/Order/CompleteLattice/SetLike.lean:24]: Is there a reason for this separate section? (very minor comment)

**Review by grunweg — COMMENTED** [review]
Some stylistic comments. I don't know the mathematics behind this.

General questions/suggestions: can you link to some branch using this definition, to convince reviewers your design choices are workable? Is there some "easy" API you can include already? Definitions without API are always harder to review.

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 2 above)
Comment (sven-manthe) [reply Mathlib/Order/CompleteLattice/SetLike.lean:6]: The main reason is that I expect that most users of `CompleteSublattice` don't need this file.

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 3 above)
Comment (sven-manthe) [reply Mathlib/Order/CompleteLattice/SetLike.lean:25]: I felt that this instance is not canonical enough. Do you think otherwise?

File: Mathlib/SetTheory/Descriptive/Tree.lean (hunk 7 above)
Comment (sven-manthe) [reply Mathlib/SetTheory/Descriptive/Tree.lean:11]: I did an explanation at the main definition itself. Of course, I could copy-paste or move it up there if this is preferred

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Order/CompleteLattice/SetLike.lean:6]: Hm. I see where you're coming from, but I'm not sure if this is a common argument... I'll wait for other reviewers to chime in.

File: Mathlib/SetTheory/Descriptive/Tree.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/SetTheory/Descriptive/Tree.lean:11]: Copying (perhaps a short of) the comment into the module docstring would indeed help, I think.

**Comment by grunweg** [comment]
> I didn't provide more API yet to keep the PR short for review, but could change this of course. I don't want to create too many dependent branches (in theory, the code using this definition is public in the mentioned repository)

I see. At the moment, you have basically *no* API for the new definition. I think that probably errs on the side of "too little". Is there a modest amount of API you can sensibly add? If not, can you provide some pointers to where this is used? If I am to review this PR, looking through several thousand lines of code is not so nice.

File: Mathlib/SetTheory/Descriptive/Tree.lean (hunk 7 above)
Comment (sven-manthe) [reply Mathlib/SetTheory/Descriptive/Tree.lean]: Done

**Comment by sven-manthe** [comment]
I'll try to add some API later. About pointers: The basic API is in the file https://github.com/sven-manthe/A-formalization-of-Borel-determinacy-in-Lean/blob/master/BorelDet/Tree/trees.lean

File: Mathlib/SetTheory/Descriptive/Tree.lean [hunk 10]
```diff
@@ -0,0 +1,32 @@
...
+* `Tree A`: a (possibly infinite) tree of depth at most `ω` with nodes in `A`
+-/
+
+namespace Descriptive
+
+/-- A tree is a set of finite sequences, implemented as `List A`, that is stable under
+  taking prefixes. For the definition we use the equivalent property `x ++ [a] ∈ T → x ∈ T`,
+  which is more convenient to check. We define `Tree A` as a complete sublattice of
+  `Set (List A)`, which coerces to the type of trees on `A`. -/
+def Tree (A : Type*) : CompleteSublattice (Set (List A)) :=
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Descriptive/Tree.lean:25]: I suspect `Language A` might be appropriate here?

Comment (sven-manthe) [reply Mathlib/SetTheory/Descriptive/Tree.lean:25]: I'm not sure. The automata-theoretic notation of `Language` feels a bit odd in this context, for example I'd prefer writing ∪ over +. Is there a specific part of the API you expect to be useful?

**Comment by urkud** [comment]
Is there a reason to use this design, as opposed to the usual `carrier` etc design of other `SetLike` structures?

**Comment by sven-manthe** [comment]
> Is there a reason to use this design, as opposed to the usual `carrier` etc design of other `SetLike` structures?

Originally I worked with an inductive type, and provided manually `SetLike` and `CompleteLattice` instances and a complete lattice morphism. The current design is my attempt to prove the lemmas about the interaction between the `SetLike` and the lattice structure in the proper general context - there was no difference in using either design at least in my applications

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 11]
```diff
@@ -0,0 +1,45 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sven Manthe
+-/
+import Mathlib.Order.CompleteSublattice
+
+/-!
+# `SetLike` instance for elements of `CompleteSublattice (Set X)`
+
+This file defines a `SetLike` instance for elements of `CompleteSublattice (Set X)`, but does not
+register it for typeclass inference to avoid conflicts.
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteLattice/SetLike.lean:12]: What conflicts are you expecting?

**Comment by eric-wieser** [comment]
> Also, should we have `SetLike` for any subtype of `Set _`?

My thinking would be "no", because this means we have a huge amount of API to duplicate between `Subtype.val` and `SetLike.coe`. So I'm also not sure we even want the single `SetLike` instance in this PR, and should instead just put up with having to write `.val` for now.

File: Mathlib/SetTheory/Descriptive/Tree.lean (hunk 10 above)
Comment (eric-wieser) [inline Mathlib/SetTheory/Descriptive/Tree.lean:25]: This is not a `Type`, so should be written as 
```suggestion
def tree (A : Type*) : CompleteSublattice (Set (List A)) :=
```

**Comment by fpvandoorn** [comment]
I've advised Sven on this project, but not on these particular definitions (I think, or very long ago).

Honestly I think the design here is fine:
* The fact that it is a complete sublattice instead of a subtype/structure: this is also done in e.g. [MeasureTheory.Lp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSpace.html#MeasureTheory.Lp)
* Normally, a `SetLike` instance is created just for the newly defined type. Here Sven does it for any sublattice of sets, which potentially could be reused elsewhere, so I don't think that is bad.
* It is indeed a bit arbitrary to only do this for `CompleteSublattice`s of `Set X`, but there is no technical way to do this for any subtype of `Set X` that is as easy to use, right?
* The code Sven linked above shows that it is ok to work with this definition.

Are there any other objections raised here? If not, shall we just merge this?

File: Mathlib/SetTheory/Descriptive/Tree.lean (hunk 10 above)
Comment (sven-manthe) [reply Mathlib/SetTheory/Descriptive/Tree.lean:25]: I see. I almost always use this as a type in the project and barely as a sublattice; in other words, I'm defining the type of trees, which by accident is a complete sublattice, and thus using upper case as for other types feels more natural. If the convention should not be violated nonetheless, I can of course change this.

Comment (eric-wieser) [reply Mathlib/SetTheory/Descriptive/Tree.lean:25]: If you use this as a type, then you should change this to
```suggestion
def Tree (A : Type*) : Type _ :=
```
and let lean coerce it to the type in the definition.

Comment (sven-manthe) [reply Mathlib/SetTheory/Descriptive/Tree.lean:25]: > and let lean coerce it to the type in the definition.

I played around a bit with this (change the definition and add the complete lattice instance back using `inferInstanceAs`), but it feels rather inconvenient. Mostly, because the lemmas about the `SetLike` instance I add in this PR weren't detected by `simp` any longer.

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 4 above)
Comment (sven-manthe) [reply Mathlib/Order/CompleteLattice/SetLike.lean]: Thanks, changed

File: Mathlib/SetTheory/Descriptive/Tree.lean (hunk 10 above)
Comment (sven-manthe) [reply Mathlib/SetTheory/Descriptive/Tree.lean:25]: However, making the entire declaration reducible feels bad. I could of course first make the current definition as a sublattice, call it `tree`, and then add `abbrev Tree (A) : Type _ := tree A`, but this also looks awkward

Comment (alreadydone) [reply Mathlib/SetTheory/Descriptive/Tree.lean:25]: > If the convention should not be violated nonetheless, I can of course change this.

I think the convention indeed should never be violated, so the best option is probably to adopt Eric's [original suggestion](https://github.com/leanprover-community/mathlib4/pull/18763#discussion_r1913106548).

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 12]
```diff
@@ -0,0 +1,45 @@
...
+-/
+
+namespace CompleteSublattice
+
+variable {X : Type*} {L : CompleteSublattice (Set X)}
+
+/-- membership is inherited from `Set X` -/
+@[simps] def setLikeCompleteSublattice : SetLike L X where
+  coe T := T
+  coe_injective' := Subtype.val_injective
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Order/CompleteLattice/SetLike.lean:22]: I see there's an [objection](https://github.com/leanprover-community/mathlib4/pull/18763#issuecomment-2586961436) from @eric-wieser but I agree with @sven-manthe that [making it a local/scoped instance](https://github.com/leanprover-community/mathlib4/pull/18763#issuecomment-2587069532) is certainly fine.

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 13]
```diff
@@ -8,38 +8,41 @@ import Mathlib.Order.CompleteSublattice
...
+
+@[simp] theorem mem_sInf : x ∈ sInf 𝒮 ↔ ∀ T ∈ 𝒮, x ∈ T := by simp [← Sublattice.mem_subtype]
+@[simp] theorem mem_iInf : x ∈ ⨅ i : I, f i ↔ ∀ i : I, x ∈ f i := by simp [← Sublattice.mem_subtype]
+@[simp] theorem mem_top : x ∈ (⊤ : L) := by simp [← mem_subtype]
 
-@[simp] lemma mem_coe : x ∈ T.val ↔ x ∈ T := Iff.rfl
-@[simp] lemma mem_mk (U : Set X) (h : U ∈ L) : x ∈ (⟨U, h⟩ : L) ↔ x ∈ U := Iff.rfl
+@[simp] theorem mem_sSup : x ∈ sSup 𝒮 ↔ ∃ T ∈ 𝒮, x ∈ T := by simp [← Sublattice.mem_subtype]
+@[simp] theorem mem_iSup : x ∈ ⨆ i : I, f i ↔ ∃ i : I, x ∈ f i := by simp [← Sublattice.mem_subtype]
+@[simp] theorem mem_bot : ¬ x ∈ (⊥ : L) := by simp [← Sublattice.mem_subtype]
```
Comment (alreadydone) [inline Mathlib/Order/CompleteLattice/SetLike.lean:46]:
```suggestion
@[simp] theorem not_mem_bot : ¬ x ∈ (⊥ : L) := by simp [← Sublattice.mem_subtype]
```

File: Mathlib/Data/SetLike/Basic.lean [hunk 14]
```diff
@@ -214,4 +214,14 @@ theorem exists_of_lt : p < q → ∃ x ∈ q, x ∉ p :=
 theorem lt_iff_le_and_exists : p < q ↔ p ≤ q ∧ ∃ x ∈ q, x ∉ p := by
   rw [lt_iff_le_not_le, not_le_iff_exists]
 
+/-- membership is inherited from `Set X` -/
+def instSubtypeSet {X} {p : Set X → Prop} : SetLike {s // p s} X where
+  coe := (↑)
+  coe_injective' := Subtype.val_injective
+
+/-- membership is inherited from `S` -/
+def instSubtype {X S} [SetLike S X] {p : S → Prop} : SetLike {s // p s} X where
```
Comment (alreadydone) [inline Mathlib/Data/SetLike/Basic.lean:223]: These should be `abbrev` since they may be used as parameters of other classes like [AddMemClass](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subsemigroup/Defs.html#AddMemClass)

Maybe you can then remove `@[simps!]` from `@[simps!] instance (A : Type*) : SetLike (tree A) (List A) := SetLike.instSubtypeSet`

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 15]
```diff
@@ -8,38 +8,41 @@ import Mathlib.Order.CompleteSublattice
 /-!
 # `SetLike` instance for elements of `CompleteSublattice (Set X)`
 
-This file defines a `SetLike` instance for elements of `CompleteSublattice (Set X)`, but does not
-register it for typeclass inference to avoid conflicts.
+This file provides lemmas for the `SetLike` instance for elements of `CompleteSublattice (Set X)`
 -/
 
-namespace CompleteSublattice
+attribute [local instance] SetLike.instSubtypeSet
```
Comment (alreadydone) [inline Mathlib/Order/CompleteLattice/SetLike.lean:14]: If you don't put it inside a namespace/section it probably applies everywhere (in every file that import this file, maybe?)

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 16]
```diff
@@ -8,38 +8,41 @@ import Mathlib.Order.CompleteSublattice
...
-@[simps] def setLikeCompleteSublattice : SetLike L X where
-  coe T := T
-  coe_injective' := Subtype.val_injective
+variable {X : Type*} {L : Sublattice (Set X)}
 
-attribute [local instance] setLikeCompleteSublattice
+variable {S T : L} {x : X}
 
-variable {S T : L} {𝒮 : Set L} {I : Sort*} {f : I → L} {x : X}
+@[ext] theorem ext_mem (h : ∀ x, x ∈ S ↔ x ∈ T) : S = T := SetLike.coe_injective <| Set.ext h
```
Comment (alreadydone) [inline Mathlib/Order/CompleteLattice/SetLike.lean:22]: The proof should just be [SetLike.ext](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/SetLike/Basic.html#SetLike.ext), but maybe you don't want to remove this lemma because the statement is valid even if the SetLike instance isn't activated?

File: Mathlib/Order/CompleteLattice/SetLike.lean [hunk 17]
```diff
@@ -8,38 +8,41 @@ import Mathlib.Order.CompleteSublattice
...
 
-@[local simp] theorem mem_subtype : x ∈ L.subtype T ↔ x ∈ T := Iff.rfl
+@[simp] theorem setLike_mem_inf : x ∈ S ⊓ T ↔ x ∈ S ∧ x ∈ T := by simp [← mem_subtype]
+@[simp] theorem setLike_mem_sup : x ∈ S ⊔ T ↔ x ∈ S ∨ x ∈ T := by simp [← mem_subtype]
 
-@[simp] theorem mem_sInf : x ∈ sInf 𝒮 ↔ ∀ T ∈ 𝒮, x ∈ T := by simp [← mem_subtype]
-@[simp] theorem mem_iInf : x ∈ ⨅ i : I, f i ↔ ∀ i : I, x ∈ f i := by simp [← mem_subtype]
-@[simp] theorem mem_inf : x ∈ S ⊓ T ↔ x ∈ S ∧ x ∈ T := by simp [← mem_subtype]
-@[simp] theorem mem_top : x ∈ (⊤ : L) := by simp [← mem_subtype]
+@[simp] lemma setLike_mem_coe : x ∈ T.val ↔ x ∈ T := Iff.rfl
```
Comment (alreadydone) [inline Mathlib/Order/CompleteLattice/SetLike.lean:29]: This can probably be removed since it's just [SetLike.mem_coe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/SetLike/Basic.html#SetLike.mem_coe).

Comment (sven-manthe) [reply Mathlib/Order/CompleteLattice/SetLike.lean:29]: But not up to reducible equality, I guess (at least the proof `by simp only [SetLike.mem_coe]` fails)

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 15 above)
Comment (sven-manthe) [reply Mathlib/Order/CompleteLattice/SetLike.lean:14]: No, I checked that it doesn't apply in the tree file (annoyingly, I didn't find any documentation, but maybe that's the difference between `local` and `scoped`)

File: Mathlib/Data/SetLike/Basic.lean (hunk 14 above)
Comment (sven-manthe) [reply Mathlib/Data/SetLike/Basic.lean:223]: The simps! remained necessary at some later stage outside this PR

**Comment by sven-manthe** [comment]
To keep everyone up-to-date: I now generalized the `SetLike` instance as proposed (originally, I thought this wouldn't work because of a misunderstanding about the coercions from sublattices to types). This allowed to phrase the lemmas about non-complete sublattices in the appropriate generality (arguably, there should be even more, but currently mathlib is missing the definitions of e.g. subsemilattices). Unfortunately, the simp lemmas still need to be duplicated, because the binary inf/sup of a complete sublattice is only non-reducibly equal to the binary inf/sup of its underlying sublattice

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 16 above)
Comment (alreadydone) [reply Mathlib/Order/CompleteLattice/SetLike.lean]: Actualy, `x ∈ S` isn't valid when the SetLike instance on L isn't activated. So I think you should delete this in favor of SetLike.ext.

**Comment by alreadydone** [comment]
LGTM
maintainer delegate

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 17 above)
Comment (alreadydone) [reply Mathlib/Order/CompleteLattice/SetLike.lean:29]: Interesting, I've always thought they are reducibly equal ...

File: Mathlib/Order/CompleteLattice/SetLike.lean (hunk 16 above)
Comment (sven-manthe) [reply Mathlib/Order/CompleteLattice/SetLike.lean]: If I just delete it, then later in my files, the ext tactic on trees will use `Subtype.ext` instead of `SetLike.ext`, which is bad. I'm not sure what's the best solution, though

Comment (alreadydone) [reply Mathlib/Order/CompleteLattice/SetLike.lean]: I see; don't worry about it then.
